US07465726B2
1-{4-[4-(1-Methyl-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridin-1-yl}-3-piperidin-1-yl-propan-1-one
To a suspension of (1-methyl-1H-indazol-5-yl)-[6-(1,2,3,6-tetrahydro-pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine tris-hydrochloride (155.3 mg, 0.3381 mmol, 1 eq), 1-piperidinepropanoic acid (150.1 mg, 0.9548 mmol, 2.8 eq), 1-hydroxybenzotriazole (HOBt) (46.7 mg, 0.346 mmol, 1 eq), and PS-carbodiimide (1.37 mmol/g loading; 1008.7 mg, 1.38 mmol, 4 eq) in anhydrous DMF (10 mL), DiPEA (290 μL, 1.7 mmol, 5 eq) was added and was shaken at rt for 13 h. The resin was filtered off and rinsed several times with DMF. The filtrate was concentrated in vacuo at medium temp (bath temp: max 42° C.), redissolved in MeOH and DCM, and concentrated again under reduced pressure. The crude material was adsorbed onto Hydromatrix, dry loaded, and purified by chromatography on silica gel [Jones Flashmaster, 10 g/70 mL cartridge, eluting with MeOH:DCM 5%→10% →7N NH3(MeOH):DCM 3%→5%]. Fractions containing product were combined and concentrated in vacuo, affording the title compound as an off-white solid. 1H NMR (400 MHz, DMSOd6): δ=1.30-1.40 (mc, 2H), 1.45-1.53 (mc, 4H), 2.30-2.41 (s, br, 4H), 2.41-2.63 (m, 6H), 3.69 (t, J=5.6 Hz, 2H), 4.03 (s, 3H), 4.23 & 4.13 (s, br, rotamers, 2H), 6.41 (s, br, 1H), 6.75 & 6.77 (s, br, rotamers, 1H), 7.60 (d, J=9.2 Hz, 1H), 7.69 (dd, J=8.8, 2.0 Hz, 1H), 8.01 (s, 1H), 8.26 (d, J=2.0 Hz, 1H), 8.38 & 8.39 (s, br, rotamers, 1H), 9.34 (s, —NH), 11.90 & 11.93 (s, rotamers, 1H). MS (ES+): m/z 485.11 (45) [MH+]. HPLC: tR=1.72 min (ZQ2000, polar—5 min).

reactant | (1-methyl-1H-indazol-5-yl)-[6-(1,2,3,6-tetrahydro-pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine tris-hydrochloride | 0.3381 mmol, 155.3 mg, 1 eq | Cl.Cl.Cl.CN1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)NC(=C2)C=2CCNCC2
reactant | 1-piperidinepropanoic acid | 0.9548 mmol, 150.1 mg, 2.8 eq | N1(CCCCC1)CCC(=O)O | C8H15NO2
reactant | 1-hydroxybenzotriazole | 0.346 mmol, 46.7 mg, 1 eq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | carbodiimide | 1.38 mmol, 1008.7 mg, 4 eq | N=C=N | CH2N2
reactant | DiPEA | 1.7 mmol, 290 μL, 5 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-{4-[4-(1-Methyl-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridin-1-yl}-3-piperidin-1-yl-propan-1-one | CN1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)NC(=C2)C=2CCN(CC2)C(CCN2CCCCC2)=O | C27H32N8O
